US06696476B2
Step A: 6-Benzyloxy-1-[(S)-2-(tert-butyldimethyl-silanyloxy)-propyl]-1H-indazole
To a mixture of (S)-1-(6-benzyloxyindazol-1-yl)-propan-2-ol (2.03 g, 7.20 mmol) in anhydrous THF/DMF (100 mL/35 mL) under nitrogen was added sodium hydride (60% in mineral oil, 0.40 g, 10.0 mmol). After 30 min tert-butyl-chloro-dimethyl-silane (1.52 g, 110 mmol) and a catalytic amount of NaI were added and the mixture was stirred overnight at ambient temperature. Additional NaH (5 mmol) and tert-butyl-chloro-dimethyl-silane (5 mmol) were added to the reaction mixture, which was stirred for 6 h. The reaction mixture was evaporated to a residue that was mixed with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate (2×200 mL). Purification by chromatography (silica, EtOAc/hexane) gave an oil (2.81 g, 99%).

reactant | (S)-1-(6-benzyloxyindazol-1-yl)-propan-2-ol | 7.20 mmol, 2.03 g | C(C1=CC=CC=C1)OC1=CC=C2C=NN(C2=C1)C[C@H](C)O | C17H18N2O2
reactant | sodium hydride | 10.0 mmol, 0.40 g | [H-].[Na+]
reactant | tert-butyl-chloro-dimethyl-silane | 110 mmol, 1.52 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | NaI | [Na+].[I-]
reactant | NaH | 5 mmol | [H-].[Na+]
reactant | tert-butyl-chloro-dimethyl-silane | 5 mmol | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | THF DMF | 100 mL | C1CCOC1.CN(C)C=O
product | 6-Benzyloxy-1-[(S)-2-(tert-butyldimethyl-silanyloxy)-propyl]-1H-indazole | 2.81 g, 99% | C(C1=CC=CC=C1)OC1=CC=C2C=NN(C2=C1)C[C@H](C)O[Si](C)(C)C(C)(C)C | C23H32N2O2Si
